US08471005B2
{4-[3-(4-Methyl-piperazin-1-yl)-propoxy]-phenyl}-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine
Into a Microwave vial, 2-Methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine (0.104 g, 0.000404 mol), 4-[3-(4-Methyl-piperazin-1-yl)-propoxy]-phenylamine (0.221 g, 0.000888 mol), 1-Methoxy-2-propanol (0.971 mL, 0.00993 mol) and N,N-Diisopropylethylamine (0.155 mL, 0.000888 mol) were added. The reaction was microwaved on 300 watts, 170° C. for 50 minutes. The solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and methanol as eluant (0 to 15% methanol). The collected fractions afforded {4-[3-(4-Methyl-piperazin-1-yl)-propoxy]-phenyl}-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine as a yellow solid (25 mg, 14%). MP 135-139° C. LCMS (E/I+) 444.8 (M+H). NMR 1H (DSMO-d6)-9.38-9.46 (m, 2H), 9.03 (s, 1H), 8.66 (d, 1H, J=8.08 Hz), 8.61 (d, 1H, J=4.67 Hz), 7.60-7.70 (m, 3H), 7.32 (d, 1H, J=4.81 Hz), 6.98 (d, 1H, J=4.80 Hz), 6.93 (d, 2H, J=9.00 Hz), 4.03 (t, 2H, J=5.26 Hz), 2.30-3.60 (m, 13H), 1.95-2.10 (bm, 2H).

reactant | 2-Methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine | 0.000404 mol, 0.104 g | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C12H10N4OS
reactant | 4-[3-(4-Methyl-piperazin-1-yl)-propoxy]-phenylamine | 0.000888 mol, 0.221 g | CN1CCN(CC1)CCCOC1=CC=C(C=C1)N | C14H23N3O
reactant | 1-Methoxy-2-propanol | 0.00993 mol, 0.971 mL | COCC(C)O | C4H10O2
reactant | N,N-Diisopropylethylamine | 0.000888 mol, 0.155 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | {4-[3-(4-Methyl-piperazin-1-yl)-propoxy]-phenyl}-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | CN1CCN(CC1)CCCOC1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C25H29N7O
